US08877782B2
N-Cyclopropylmethyl-6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 90, 6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (130 mg, 0.4 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted to the title compound (98 mg, 67%) which was obtained as a light yellow solid. MS: m/e=365.1 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.4 mmol, 130 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=NC=CC1)=O | C17H15N3O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
product | N-Cyclopropylmethyl-6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinamide | 98 mg, 67% | C1(CC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=NC=CC1)=O | C20H20N4O3
